US05405865
Stage A: Ethyl 2-methyl-4-hydroxy-4-trifluoromethyl-4,5-dihydrofuran-3-carboxylate.
A solution of 18.8 g of sodium hydride in 175 ml of ethanol was added over 3 hours into a mixture of 51 g of ethyl acetoacetate, 74.8 g of 1-bromo-3,3,3-trifluoroacetone and 200 ml of toluene while maintaining a temperature below +10° C. The mixture was stirred for 18 hours and an aqueous sodium bicarbonate solution was added. The mixture was stirred and extracted with isopropyl ether. The extract was dried and the solvent was evaporated to obtain 62 g of the expected product with a boiling point of 64°-72° C.

reactant | sodium hydride | 18.8 g | [H-].[Na+]
reactant | ethyl acetoacetate | 51 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-bromo-3,3,3-trifluoroacetone | 74.8 g | BrCC(=O)C(F)(F)F | C3H2BrF3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 175 ml | C(C)O | C2H6O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-methyl-4-hydroxy-4-trifluoromethyl-4,5-dihydrofuran-3-carboxylate | 62 g | CC=1OCC(C1C(=O)OCC)(C(F)(F)F)O | C9H11F3O4
